US07868008B2
5-(1-Benzyl-pyrrolidin-3-ylamino)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
3-Amino-1-benzyl-pyrrolidine (57 mg, 0.325 mmol), 5-Bromo-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-isoindol-1-one (100 mg, 0.25 mmol), NaOtBu (168 mg, 1.75 mmol), BINAP (16 mg, 0.025 mmol) and Pd2(dba)3 (23 mg, 0.025 mmol) were dissolved in anhydrous toluene (5 mL). The mixture was immersed in a 110° C. oil bath. After eighteen hours, the reaction was cooled and poured into water and extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated. The compound was purified by column chromatography (50% EtOAc/Hexanes) to provide the title compound as a yellow gum (87 mg, 70%). 1H NMR (300 MHz, CDCl3): δ 7.24-7.34 (m, 7H), 7.18 (d, 2H), 6.34 (d, 2H), 4.72 (s, 2H), 4.33 (d, 1H), 4.12 (s, 2H), 4.04 (m, 1H), 3.64 (collapsed dd, 2H), 2.75-2.83 (m, 2H), 2.66 (s, 3H), 2.58 (dd, 1H), 2.45 (ddd, 1H), 2.32-2.42 (m, 1H), 1.67-1.70 (m, 1H).

reactant | 3-Amino-1-benzyl-pyrrolidine | 0.325 mmol, 57 mg | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
reactant | 5-Bromo-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-isoindol-1-one | 0.25 mmol, 100 mg | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
reactant | NaOtBu | 1.75 mmol, 168 mg | CC(C)(C)[O-].[Na+]
reactant | BINAP | 0.025 mmol, 16 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 5-(1-Benzyl-pyrrolidin-3-ylamino)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 87 mg, 70% | C(C1=CC=CC=C1)N1CC(CC1)NC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C28H28F3N3O2
